US06462092B1
EX-634B) 3-(4-Fluorophenoxy)nitrobenzene (1.15 g, 4.93 mmol) from EX-634A was dissolved in ethanol (45 mL), and the solution was hydrogenated for 4 h in the presence of 5% palladium on charcoal. After the mixture was filtered through celite, the ethanol was removed in vacuo. The product was purified by flash column chromatography on silica gel eluting with ethyl acetate in hexane (1:10) to give 0.92 g (90%) of 3-(4-fluorophenoxy)aniline as a yellow oil, 99% pure by HPLC analysis. HRMS calcd. for C12H11FNO: 204.0824 [M+H]+, found: 204.0837.

reactant | 3-(4-Fluorophenoxy)nitrobenzene | 4.93 mmol, 1.15 g | FC1=CC=C(OC=2C=C(C=CC2)[N+](=O)[O-])C=C1 | C12H8FNO3
solvent | ethanol | 45 mL | C(C)O | C2H6O
catalyst | palladium on charcoal | [Pd] | Pd
product | 3-(4-fluorophenoxy)aniline | 0.92 g, 90% | FC1=CC=C(OC=2C=C(N)C=CC2)C=C1 | C12H10FNO
